US03944560
A mixture of 3-hydroxy-3-isopropylaminomethyl-3,4-dihydro-2H-1,5-benzodioxepin (11.85 g.; 50 millimoles), prepared as described in Example 1, and dibutyl carbonate (13.1 g.) with a small piece of metallic sodium is heated in an oil bath. The temperature then is slowly raised to 170° C. with removal of butanol. Finally, the mixture is heated between 170°-200° C. with removal of excess dibutyl carbonate. The cooled reaction product is dissolved in benzene, washed with water, dried over sodium sulfate, and the solvent evaporated to give 3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one, m.p. 121°-122° C.

reactant | 3-hydroxy-3-isopropylaminomethyl-3,4-dihydro-2H-1,5-benzodioxepin | 50 millimoles, 11.85 g | OC1(COC2=C(OC1)C=CC=C2)CNC(C)C | C13H19NO3
reactant | dibutyl carbonate | 13.1 g | C(OCCCC)(OCCCC)=O | C9H18O3
reactant | sodium | [Na] | Na
reactant | butanol | C(CCC)O | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one | C(C)(C)N1C(OC2(C1)COC1=C(OC2)C=CC=C1)=O | C14H17NO4
